US04680297
2-Methyl-3,5-dihydro-5-phenyl-furo[3,2-c][1,8]naphthyridin-4(2H)-one.
A solution of 4-hydroxy-3-(2-hydroxypropyl)-1-phenyl-1,8-naphthyridin-2(1H)-one (8.9 g; 0.03 mole) in 47% HBr (90 ml.) was stirred in an atmosphere of nitrogen. The solution was heated to 90° C. for 41/2 hrs. then was allowed to cool, poured into water and was adjusted to pH 4.5 with sodium acetate. The product was filtered off, washed with water, dried in air and recrystallized from CHCl3 /isopropanol to yield the product, m.p. 223°-224° C.

reactant | 4-hydroxy-3-(2-hydroxypropyl)-1-phenyl-1,8-naphthyridin-2(1H)-one | 0.03 mole, 8.9 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC(C)O | C17H16N2O3
reactant | water | O | H2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | HBr | 90 ml | Br | BrH
product | 2-Methyl-3,5-dihydro-5-phenyl-furo[3,2-c][1,8]naphthyridin-4(2H)-one | CC1CC=2C(N(C=3N=CC=CC3C2O1)C1=CC=CC=C1)=O | C17H14N2O2
